US04140790
3-(4-Butyl-piperazin-1-yl)-1-(xanthene-9-carbonyloxy)-propane dimethoiodide
5 g of 3-(4-butyl-piperazin-1-yl)-1-(xanthene-9-carbonyloxy)-propane dihydrochloride, prepared as described in Example 2, are admixed with 20 ml of an 5% aqueous solution of sodium hydroxide. The alkaline solution is extracted with 3×20 ml of ethyl ether. The etheral extracts are combined, dried over sodium sulfate, filtered, and the filtrate is evaporated. The residue is dissolved in 25 ml of acetone, and 3.5 g of methyl iodide are added to the solution. The reaction mixture is refluxed for 15 minutes and then cooled to 0° C. The crystalline product is filtered off and recrystallized from 30 ml of ethanol. 3.5 g of the title compound are obtained; m.p.: 188°-190° C.

reactant | 3-(4-butyl-piperazin-1-yl)-1-(xanthene-9-carbonyloxy)-propane dihydrochloride | 5 g | Cl.Cl.C(CCC)N1CCN(CC1)CCCOC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12
reactant | sodium hydroxide | [OH-].[Na+]
product | 3-(4-Butyl-piperazin-1-yl)-1-(xanthene-9-carbonyloxy)-propane | 3.5 g | C(CCC)N1CCN(CC1)CCCOC(=O)C1C2=CC=CC=C2OC=2C=CC=CC12 | C25H32N2O3
